US08212065B2
In a 10 ml Schlenk tube, 3.5 mg of dry zinc chloride was dissolved in 3.0 ml of absolute tetrahydrofuran and cooled to 0° C. under argon. Thereafter, 279 mg of tert-butyl (S)-2-trifluoromethanesulphonyloxypropionate (ee>99%) and 0.700 ml of n-butylmagnesium chloride (2.00 M solution in THF) were added in succession and the reaction was stirred for 3 h at 0° C. Thereafter, the reaction mixture was diluted with petroleum ether, first water and then saturated ammonium chloride solution were added and the organic phase was separated off. This was applied directly to a silica gel filter and washed with petroleum ether. The product was then washed off with a petroleum ether/diethyl ether mixture (10:1) from the filter and freed from the solvent. The pure tert-butyl (S)-2-methylhexanoate (entry 3 in table 1)(ee>99%) was obtained in quantitative yield.

reactant | tert-butyl (S)-2-trifluoromethanesulphonyloxypropionate | 279 mg | FC(S(=O)(=O)O[C@H](C(=O)OC(C)(C)C)C)(F)F | C8H13F3O5S
reactant | n-butylmagnesium chloride | 2.00 M, 0.700 ml | C(CCC)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
solvent | zinc chloride | 3.5 mg | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | tert-butyl (S)-2-methylhexanoate | quantitative yield | C[C@H](C(=O)OC(C)(C)C)CCCC | C11H22O2
